US05354746
3-Ethoxy-4-(4-ethyl-1-piperazinyl)-3-cyclobutene-1,2-dione
A solution of N-ethylpiperazine (1.529 g) and 3,4-diethoxy-3-cyclobutene-1,2-dione (2.29 g) in ether (40 mL) was stirred at ambient temperature for 16 hours. The precipitated solid was collected by filtration to obtain the title compound (1.5 g) as a white solid. This material was used in Example 2 without further purification.

reactant | N-ethylpiperazine | 1.529 g | C(C)N1CCNCC1 | C6H14N2
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 2.29 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ether | 40 mL | CCOCC | C4H10O
product | 3-Ethoxy-4-(4-ethyl-1-piperazinyl)-3-cyclobutene-1,2-dione | 1.5 g | C(C)OC=1C(C(C1N1CCN(CC1)CC)=O)=O | C12H18N2O3
